US04778802
N-[[[1-(2-Naphthalenylmethyl)-4-piperidinyl]amino]carbonyl]-6-quinolinecarboxamide
A suspension of 4-amino-1-(2-naphthalenylmethyl)piperidine (1.4 g, 5.83 mmol) and N-aminocarbonyl-6-quinolinecarboxamide (1.08 g, 5.02 mmol) in pyridine (7 cm3) was refluxed for 7 hours. The mixture was left at room temperature overnight then more 4-amino-1-(2-naphthalenylmethyl)piperidine (0.3 g, 1.4 mmol) was added and refluxing was continued for 5 hours. Undissolved solid was filtered off from the hot mixture and the filtrate was diluted with water (8 cm3) and filtered again. The filtrate was further diluted with water and cooled in ice. The deposited solid was collected and dried (0.46 g,) then recrystallised from ethanol (50 cm3) to give 0.30 g of the title compound, m.p. 211°-13° C.

reactant | 4-amino-1-(2-naphthalenylmethyl)piperidine | 5.83 mmol, 1.4 g | NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C16H20N2
reactant | N-aminocarbonyl-6-quinolinecarboxamide | 5.02 mmol, 1.08 g | NC(=O)NC(=O)C=1C=C2C=CC=NC2=CC1 | C11H9N3O2
reactant | 4-amino-1-(2-naphthalenylmethyl)piperidine | 1.4 mmol, 0.3 g | NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C16H20N2
solvent | pyridine | 7 cm3 | N1=CC=CC=C1 | C5H5N
product | N-[[[1-(2-Naphthalenylmethyl)-4-piperidinyl]amino]carbonyl]-6-quinolinecarboxamide | 0.30 g | C1=C(C=CC2=CC=CC=C12)CN1CCC(CC1)NC(=O)NC(=O)C=1C=C2C=CC=NC2=CC1 | C27H26N4O2
